US07504411B2
Dimethylslufoxide (50 ml) solution of 4-methyoxyphenacylbromide (9.94 g, 43.4 mmol) and water (1.6 ml, 88.8 mmol) were stirred at 50° C. for 2.5 hr. Water was added and the solution was extracted with ethyl acetate 3 times and washed with brine and then dried over sodium sulfate. Removal of the solvent gave 4-methoxyphenylglyoxal (8.30 g, quant.).

reactant | 4-methyoxyphenacylbromide | 43.4 mmol, 9.94 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | Water | O | H2O
reactant | water | 88.8 mmol, 1.6 ml | O | H2O
product | 4-methoxyphenylglyoxal | 8.30 g | COC1=CC=C(C=C1)C(=O)C=O | C9H8O3
